US08871753B2
Step D: N-{3-[2-(5-Aminopyridin-3-yl)ethyl]-4-methoxyphenyl}-2,5-dichloropyrimidin-4-amine
To a solution of N-{3-[(E)-2-(5-aminopyridin-3-yl)vinyl]-4-methoxyphenyl}-2,5-dichloropyrimidin-4-amine (2.25 g, 5.80 mmol) in 1,2-dimethoxyethane (2.0 mL), and tetrahydrofuran (100 mL) was added p-toluenesulfonylhydrazide (16.2 g, 86.9 mmol). The reaction mixture was heated to 90° C. when a solution of sodium acetate (11.4 g, 139 mmol) in water (120 mL) was added dropwise over 4 h. The reaction mixture was stirred at 90° C. for 3 h. The reaction mixture was diluted with ethyl acetate. The aqueous layer was extracted with ethyl acetate twice. The combined organic layers were combined, dried over Na2SO4, filtered and concentrated. The residue was purified by silica gel column chromatography to give the desired product as a yellow foam (1.75 g, 77%). LCMS for C18H18Cl2N5O (M+H)+: m/z=390.1

reactant | N-{3-[(E)-2-(5-aminopyridin-3-yl)vinyl]-4-methoxyphenyl}-2,5-dichloropyrimidin-4-amine | 5.80 mmol, 2.25 g | NC=1C=C(C=NC1)/C=C/C=1C=C(C=CC1OC)NC1=NC(=NC=C1Cl)Cl | C18H15Cl2N5O
reactant | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
reactant | sodium acetate | 139 mmol, 11.4 g | C(C)(=O)[O-].[Na+]
solvent | 1,2-dimethoxyethane | 2.0 mL | COCCOC | C4H10O2
solvent | water | 120 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-{3-[2-(5-Aminopyridin-3-yl)ethyl]-4-methoxyphenyl}-2,5-dichloropyrimidin-4-amine | 1.75 g, 77% | NC=1C=C(C=NC1)CCC=1C=C(C=CC1OC)NC1=NC(=NC=C1Cl)Cl | C18H17Cl2N5O
